US05656656
25 mg of pTS acid are added to a solution of ethyl 3-phenyl-2-ethoxycarbonyl-2-(2-tetrahydropyranyloxy)-propanoate (6 g) in EtOH (25 ml). After 12 hours at r.t., the solvent is evaporated under vacuum, the mixture is partitioned between water and AcOEt; the organic phase is separated, dried, concentrated to small volume. The residue is adsorbed on SiO2 (40 g); by elution with 90:10 cyclohexane:AcOEt, 4.3 g of ethyl 3-phenyl-2-hydroxy-2-ethoxycarbonyl-propanoate, oil, are obtained. I.R.: 3500, 3000, 1740, 1600 cm-1 ; HNMR (CDCl3) δ (TMS): 1.2-1.35 t, 3.35 s, 3.15 s, 4.2-4.3 q, 7.25 s.

reactant | ethyl 3-phenyl-2-ethoxycarbonyl-2-(2-tetrahydropyranyloxy)-propanoate | 6 g | C1(=CC=CC=C1)CC(C(=O)OCC)(OC1OCCCC1)C(=O)OCC | C19H26O6
solvent | EtOH | 25 ml | CCO | C2H6O
product | ethyl 3-phenyl-2-hydroxy-2-ethoxycarbonyl-propanoate | 4.3 g | C1(=CC=CC=C1)CC(C(=O)OCC)(C(=O)OCC)O | C14H18O5
